US06387919B1
8-(4-Methylsulfonylmethyl-phenylamino-methylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one (Z-isomer)
The title compound was prepared in 66% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 4-methylsulfonylmethylaniline according to Procedure J: 1H NMR (DMSO-d6): δ 11.1 (d, 1H), 11.0 (s, 1H), 9.3 (s, 1H), 8.1 (d, 1H), 7.8 (d, 1H), 7.5 (q, 4H), 7.1 (d, 1H), 4.45 (s, 2H), 2.9 (s, 3H); APCI−MS m/z 384 (M−H)−.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 4-methylsulfonylmethylaniline | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | 8-(4-Methylsulfonylmethyl-phenylamino-methylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | 66% yield | CS(=O)(=O)CC1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O | C18H15N3O3S2
